US04251614
20 g of 3,6-bis(4-nitrostyryl)-9-ethyl carbazole were added to a mixture consisting of 30 g of iron powder, 10 ml of concentrated hydrochloric acid, 50 ml of water and 600 ml of N,N-dimethylformamide and subjected to 1.5 hours' intense stirring at a temperature of 80° to 90° C. Thereafter, the pH value was adjusted to be 8 by means of 10% aqueous solution of sodium carbonate while thus heating, and the undissolved matter was filtered. The resulting filtrate, after treating with active carbon, was gradually poured in 600 ml of water, whereby there was obtained yellow crystals of 3,6-bis(4-aminostyryl)-9-ethyl carbazole. The yield of this crystal was 17 g (yield: 94%) and the melting point thereof was 260° C. or more.

reactant | 3,6-bis(4-nitrostyryl)-9-ethyl carbazole | 20 g | [N+](=O)([O-])C1=CC=C(C=CC=2C=CC=3N(C4=CC=C(C=C4C3C2)C=CC2=CC=C(C=C2)[N+](=O)[O-])CC)C=C1 | C30H23N3O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 30 g | [Fe] | Fe
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 3,6-bis(4-aminostyryl)-9-ethyl carbazole | yield: 94% | NC1=CC=C(C=CC=2C=CC=3N(C4=CC=C(C=C4C3C2)C=CC2=CC=C(C=C2)N)CC)C=C1 | C30H27N3
